US09145414B2
Ethyl acetate (5 mL) and THF (2 mL) were added to 2-methyl-5-nitro-7-phenyl-2H-indazole obtained in the above-described Step 2 (260 mg). Thereafter, 10% palladium on carbon (300 mg) was added under nitrogen atmosphere, and the reaction solution was stirred under hydrogen atmosphere at room temperature overnight. The insolubles were filtrated, and then the solvent was evaporated under vacuum. Subsequently, the resultant residue was purified by column chromatography on basic silica gel (developing solvent:hexane/ethyl acetate) to obtain 2-methyl-7-phenyl-2H-indazol-5-amine as brown amorphous.

reactant | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
reactant | 2-methyl-5-nitro-7-phenyl-2H-indazole | CN1N=C2C(=CC(=CC2=C1)[N+](=O)[O-])C1=CC=CC=C1 | C14H11N3O2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-methyl-7-phenyl-2H-indazol-5-amine | CN1N=C2C(=CC(=CC2=C1)N)C1=CC=CC=C1 | C14H13N3
